US07329659B2
7-Bromo-3H-pyrido[3,4-d]pyridazin-4-one
2,2,6,6-Tetramethylpiperidine (9.58 mL, 56.4 mmol) was dissolved in dry THF (100 mL), and cooled to 0° C., whilst n-butyllithium (1.6M in hexanes, 35.2 mL, 56.43 mmol) was added over 15 min. The resulting solution was cooled to −78° C., and 6-bromonicotinic acid (3.8 g, 18.8 mmol.) was added as a solid in four equal portions, with stirring over 10 min. Stirring was continued at this temperature for 1.5 h, and the resulting deep-red solution was treated with dry DMF (10 mL) and allowed to warm to room temperature overnight. The mixture was poured onto water (200 mL) and acidified with 1M HCl, and the aqueous phase was extracted with EtOAc (×4). The combined organic phases were washed (brine), dried (sodium sulfate) and concentrated to give a yellow oil, which was dissolved in THF (25 mL) and treated with hydrazine (1M in THF, 19 mL). The precipitate was filtered, and dissolved in ethanol (50 mL) and heated to reflux in the presence of potassium acetate (5 g). The mixture was concentrated under reduced pressure and the brown oily solid was triturated with diethyl ether and the ethereal solution was subjected to flash chromatography (50% ethyl acetate/isohexane) to give a white solid (0.5 g, 12%). 1H NMR (400 MHz) DMSO-d6 δ: 8.21 (1H, s), 8.36 (1H, s), 9.20 (1H, s), 13.09, (1H, s). MS (ES M+1) 226/228.

reactant | 2,2,6,6-Tetramethylpiperidine | 56.4 mmol, 9.58 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | 56.43 mmol, 1.6M, 35.2 mL | C(CCC)[Li]
reactant | 6-bromonicotinic acid | 18.8 mmol, 3.8 g | BrC1=NC=C(C(=O)O)C=C1 | C6H4BrNO2
reactant | HCl | 1M | Cl | ClH
reactant | hydrazine | 1M, 19 mL | NN | H4N2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 7-Bromo-3H-pyrido[3,4-d]pyridazin-4-one | 0.5 g, 12% | BrC1=CC2=C(C(NN=C2)=O)C=N1 | C7H4BrN3O
